US08039469B2
Preparation of 4-[3-{4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl}ureido]benzoic acid
To a stirred mixture of methyl 4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)benzoate (1.4 g, 2.69 mmol), THF (10 mL), MeOH (5 mL) and H2O (2.5 mL) was added LiOH.H2O (339 mg, 8.07 mmol) then heated under reflux for 8 hrs. Concentrated and added H2O (5 mL) then acidified with 2N HCl. The solid was filtered washed with H2O and dried to give the product as a tan solid (1.3 g, 96% yield); MS (ESI) m/z=506.3

reactant | methyl 4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)benzoate | 2.69 mmol, 1.4 g | O1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(NC1=CC=C(C(=O)OC)C=C1)=O | C26H29N7O5
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | MeOH | 5 mL | CO | CH4O
reactant | LiOH.H2O | 8.07 mmol, 339 mg | O[Li].O
solvent | H2O | 2.5 mL | O | H2O
product | 4-[3-{4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl}ureido]benzoic acid | 1.3 g, 96% yield | O1CCN(CC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(NC1=CC=C(C(=O)O)C=C1)=O | C25H27N7O5
